US08466186B2
(b) 1-(4,5-Diamino-2-chloro-phenyl)-pyrrolidine-3-carbonitrile
Tin dichloride dihydrate (410 mg, 1.8 mmol) was added to 1-(5-amino-2-chloro-4-nitro-phenyl)-pyrrolidine-3-carbonitrile (100 mg, 0.4 mmol) in EtOAc (5 mL). The reaction mixture was stirred at reflux for 1.5 h, cooled, diluted with EtOAc and water and basified with conc. ammonia. The mixture was filtered through a pad of celite. The organic layer was dried over Na2SO4 and concentrated to give the sub-title compound.

reactant | Tin dichloride dihydrate | 1.8 mmol, 410 mg | O.O.[Sn](Cl)Cl
reactant | 1-(5-amino-2-chloro-4-nitro-phenyl)-pyrrolidine-3-carbonitrile | 0.4 mmol, 100 mg | NC=1C(=CC(=C(C1)N1CC(CC1)C#N)Cl)[N+](=O)[O-] | C11H11ClN4O2
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
solvent | ammonia | N | H3N
product | 1-(4,5-Diamino-2-chloro-phenyl)-pyrrolidine-3-carbonitrile | NC1=CC(=C(C=C1N)N1CC(CC1)C#N)Cl | C11H13ClN4
